US06057324
Ethyl 4-[4-(4-hydroxyamidinophenyl)-3-oxo-1-piperazinyl]-1-piperidineacetate (0.8 g) was dissolved in 8 ml of water, and 0.21 g of lithium hydroxide monohydrate was added with ice-cooling. The mixture was stirred for 30 minutes with ice-cooling, an aqueous saturated ammonium chloride solution was added, and the mixture was concentrated. The crystals formed were collected by filtration to give 0.67 g of 4-[4-(4-hydroxyamidinophenyl)-3-oxo-1-piperazinyl]-1-piperidineacetic acid.

reactant | Ethyl 4-[4-(4-hydroxyamidinophenyl)-3-oxo-1-piperazinyl]-1-piperidineacetate | 0.8 g | ONC(=N)C1=CC=C(C=C1)N1C(CN(CC1)C1CCN(CC1)CC(=O)OCC)=O | C20H29N5O4
reactant | lithium hydroxide monohydrate | 0.21 g | O.[OH-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | 8 ml | O | H2O
product | 4-[4-(4-hydroxyamidinophenyl)-3-oxo-1-piperazinyl]-1-piperidineacetic acid | 0.67 g | ONC(=N)C1=CC=C(C=C1)N1C(CN(CC1)C1CCN(CC1)CC(=O)O)=O | C18H25N5O4
